** sch_path: /home/toind/work/vco_adc2/xschem/lib_qz/qz.sch
.subckt qz CLK Dout FBack D
*.PININFO CLK:I D:I Dout:O FBack:O
Xdly_1 CLK GND GND VCCD VCCD DL1 sky130_fd_sc_hd__dlygate4sd3_1
x2 CLK net1 GND GND VCCD VCCD Dout sky130_fd_sc_hd__dfxtp_1
x3 D GND GND VCCD VCCD net1 sky130_fd_sc_hd__buf_2
x4 CLK_dly Dout GND GND VCCD VCCD FBack_inv sky130_fd_sc_hd__nand2_1
x5 FBack_inv GND GND VCCD VCCD FBack sky130_fd_sc_hd__inv_2
Xdly_2 DL1 GND GND VCCD VCCD DL2 sky130_fd_sc_hd__dlygate4sd3_1
Xdly_3 DL2 GND GND VCCD VCCD DL3 sky130_fd_sc_hd__dlygate4sd3_1
Xdly_4 DL3 GND GND VCCD VCCD DL4 sky130_fd_sc_hd__dlygate4sd3_1
Xdly_5 DL4 GND GND VCCD VCCD DL5 sky130_fd_sc_hd__dlygate4sd3_1
Xdly_6 DL5 GND GND VCCD VCCD CLK_dly sky130_fd_sc_hd__dlygate4sd3_1
.ends
.end
